US04977144
To a solution of 124 mg of ethyl N-(7-chloro-3H-imidazo[4,5-b]pyridin-5-yl)-carbamate in 2 ml of dry dimethylformamide is added 50 mg of sodium hydride (60% dispersion in mineral oil). After stirring for 10 minutes, 0.11 ml of benzyl chloromethyl ether is added, and the reaction is stirred for 3 hours. The reaction is quenched with water and extracted 3 times with ethyl acetate. The organic extract is washed with water, and dried (sodium sulfate). Evaporation of the solvents in vacuo leaves a residue which is purified by flash chromatography on silica gel (ether) to give a mixture of ethyl N-[7-chloro-3-(benzyloxymethyl)-3H-imidazo[4,5-b]pyridin-5-yl]-carbamate and ethyl N-[7-chloro-1-(benzyloxymethyl)-1H-imidazo[4,5-b]pyridin-5-yl]carbamate. To a solution of 100 mg of this mixture in 2 ml of dry dimethylformamide is added 17 mg of sodium hydride (60% dispersion in mineral oil) and 210 mg of 2-cyclohexylethyl bromide. The mixture is heated at 70° for 5 hours, cooled to room temperature, and quenched with water. The mixture is extracted 3 times with ethyl acetate. The organic extract is washed with water, and dried (sodium sulfate). The solvents are evaporated in vacuo, and the residue is then dissolved in 2 ml of ethanol. To this solution is added 0.1 ml of concentrated HCl, and the reaction is heated to 70° for 5 hours. After cooling to room temperature, the reaction is neutralized with saturated aqueous sodium bicarbonate, and extracted 3 times with methylene chloride. The combined organic extracts are dried (sodium sulfate) and the solvents evaporated in vacuo to give a residue which is purified by flash chromatography on silica gel (5% methanol/methylene chloride) to give ethyl N-(7-chloro-3H-imidazo[4,5-b]pyridin-5-yl)-N-(2-cyclohexylethyl)-carbamate.

reactant | ethyl N-(7-chloro-3H-imidazo[4,5-b]pyridin-5-yl)-carbamate | 124 mg | ClC1=C2C(=NC(=C1)NC(OCC)=O)NC=N2 | C9H9ClN4O2
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | benzyl chloromethyl ether | 0.11 ml | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | ethyl N-[7-chloro-3-(benzyloxymethyl)-3H-imidazo[4,5-b]pyridin-5-yl]-carbamate | ClC1=C2C(=NC(=C1)NC(OCC)=O)N(C=N2)COCC2=CC=CC=C2 | C17H17ClN4O3
reactant | ethyl N-[7-chloro-1-(benzyloxymethyl)-1H-imidazo[4,5-b]pyridin-5-yl]carbamate | ClC1=C2C(=NC(=C1)NC(OCC)=O)N=CN2COCC2=CC=CC=C2 | C17H17ClN4O3
reactant | sodium hydride | 17 mg | [H-].[Na+]
reactant | 2-cyclohexylethyl bromide | 210 mg | C1(CCCCC1)CCBr | C8H15Br
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl N-(7-chloro-3H-imidazo[4,5-b]pyridin-5-yl)-N-(2-cyclohexylethyl)-carbamate | ClC1=C2C(=NC(=C1)N(C(OCC)=O)CCC1CCCCC1)NC=N2 | C17H23ClN4O2
